US05292767
trans-4-carboxy-2-methylthiomethyltetrahydrothiophene (compound No. 19-1)
To a stirred solution of trans-4-ethoxycarbonyl-2-methylthiomethyltetrahydrothiophene (compound No. 18-1, 307 mg) in methanol (10 ml), 1N sodium hydroxide solution (2.8 ml) was added under nitrogen atmosphere and the mixture was stirred for 1 hour at room temperature. The mixture was acidified with 1N hydrochloric acid and concentrated in vacuo. Saturated aqueous sodium chloride solution was added to the aqueous residue and extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 260 mg (85%) of the titled compound (compound No. 19-1).

reactant | trans-4-ethoxycarbonyl-2-methylthiomethyltetrahydrothiophene | C(C)OC(=O)[C@H]1C[C@@H](SC1)CSC | C9H16O2S2
reactant | sodium hydroxide | 1N, 2.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | trans-4-carboxy-2-methylthiomethyltetrahydrothiophene | 260 mg, 85% | C(=O)(O)[C@H]1C[C@@H](SC1)CSC | C7H12O2S2
